US05155113
Preparation of 4-acetoxy-2-pyridone
A 5.00 g quantity of 4-hydroxy-2-pyridone and 3.84 ml of acetyl chloride were reacted for 5 hours in the same manner as in Example 2. The title compound was isolated in an amount of 4.15 g from the reaction mixture in the same manner as in Example 2 except that ethyl acetate was used as extraction solvent. Yield was 60%.

reactant | 4-hydroxy-2-pyridone | OC1=CC(NC=C1)=O | C5H5NO2
reactant | acetyl chloride | 3.84 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-acetoxy-2-pyridone | Yield was 60% | C(C)(=O)OC1=CC(NC=C1)=O | C7H7NO3
